US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-furanylmethyl) amide
A mixture of 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-ethyl ester (2.4 g, 5 mmol) and 2-furanylmethylamine (10 mL, excess) was refluxed in ethanol for 48 h. The reaction mixture was concentrated and the residue obtained was extracted with chloroform:methanol (3:1). It was washed with water and dried over anhydrous MgSO4. The organic layer was filtered and concentrated. The residue obtained was chromatographed over silica gel eluted with 9:1 chloroform:methanol to yield a brown solid; mp 50; yield 400 mg; 14%; M+H 581.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-ethyl ester | 5 mmol, 2.4 g | C(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCC | C24H28ClNO7
reactant | 2-furanylmethylamine | 10 mL | O1C(=CC=C1)CN | C5H7NO
solvent | ethanol | C(C)O | C2H6O
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-furanylmethyl) amide | O1C(=CC=C1)CN(C(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)O)CC=2OC=CC2 | C30H29ClN2O8
